US08071581B2
Step 2: 3-quinolin-6-yl-propionic acid ethyl ester
A mixture of 3-quinolin-6-yl-acrylic acid ethyl ester (200 mg, 0.881 mmol) and 10% wt Pd/C (93 mg, 0.088 mmol) in methanol (3 mL) was stirred at room temperature under hydrogen atmosphere for 3 h. Mixture was filtered through celite and the filtrate was absorbed on silica gel. Purification on silica gel with 0-65% gradient of ethyl acetate in hexane provided 100 mg of product as a clear oil. 1H NMR 500 MHz (DMSO) δ 1.13 (t, 3H), 2.74 (t, 2H), 3.05 (t, 2H), 4.04 (q, 2H), 7.50 (dd, 1H), 7.67 (dd, 1H), 7.78 (d, 1H), 7.94 (d, 1H), 8.29 (dd, 1H), 8.84 (dd, 1H); MS (m/z) 230 [M+H+]+.

reactant | 3-quinolin-6-yl-acrylic acid ethyl ester | 0.881 mmol, 200 mg | C(C)OC(C=CC=1C=C2C=CC=NC2=CC1)=O | C14H13NO2
solvent | methanol | 3 mL | CO | CH4O
catalyst | Pd/C | 0.088 mmol, 93 mg | [Pd] | Pd
product | 3-quinolin-6-yl-propionic acid ethyl ester | 100 mg | C(C)OC(CCC=1C=C2C=CC=NC2=CC1)=O | C14H15NO2
